US05223639
Into 15 ml of dimethylformamide were dissolved with heating 2.06 g (0.015 mol) of anthranilic acid and 2.7 g of magnesium chloride (anhydrous), and the resulting solution was cooled to room temperature. To 10 ml of dimethylformamide were added in order 0.78 ml of thionyl chloride and 2.08 g (0.01 mol) of 3',4'-dimethoxycinnamic acid, during which the reaction system was stirred and cooled with ice and water. After being stirred for additional 15 minutes, the resulting mixture was added dropwise to the above solution, with stirring at room temperature. After the completion of the dropping. the reaction mixture was stirred for additional 1.5 hours, and then treated in the same manner as in Example 2. There was obtained 2.48 g (yield: 75.8%) of N-(3',4'-dimethoxycinnamoyl)-anthranilic acid. Melting point: 209°-211° C.

reactant | anthranilic acid | 0.015 mol, 2.06 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | magnesium chloride | 2.7 g | [Cl-].[Mg+2].[Cl-]
reactant | thionyl chloride | 0.78 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3',4'-dimethoxycinnamic acid | 0.01 mol, 2.08 g | COC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C11H12O4
solvent | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(3',4'-dimethoxycinnamoyl)-anthranilic acid | 2.48 g, yield: 75.8% | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
